US05250517
150 mg of (S)-α-[(RS)-α-[(benzyloxy)carbamoyl]-hydrocinnamamido]-N-[(1S,2S,4S)-1-cyclohexyl-2-hydroxy 4-isopropyl-5-hexenyl]imidazole-4-propionamide were hydrogenated in the presence of 5% palladium on carbon in methanol for 3 hours. After completion of hydrogen uptake, the catalyst was filtered and the filtrate was evaporated. Recrystallization of the residue from methanol/methylene chloride/ether yielded (S)-N-[(1S,2S,4S)-1-(cyclohexylmethyl)-4-ethyl-2-hydroxy-5-methylhexyl]-α-[(RS)-α-(hydroxycarbamoyl)hydrocinnamamido]imidazole-4-propionamide as white crystals of melting point 123°.

reactant | (S)-α-[(RS)-α-[(benzyloxy)carbamoyl]-hydrocinnamamido]-N-[(1S,2S,4S)-1-cyclohexyl-2-hydroxy 4-isopropyl-5-hexenyl]imidazole-4-propionamide | 150 mg | C(C1=CC=CC=C1)ONC(=O)C(C(=O)N[C@H](C(=O)N[C@H]([C@H](C[C@H](C=C)C(C)C)O)C1CCCCC1)CC=1N=CNC1)CC1=CC=CC=C1 | C38H51N5O5
catalyst | palladium on carbon | [Pd] | Pd
solvent | methanol | CO | CH4O
product | (S)-N-[(1S,2S,4S)-1-(cyclohexylmethyl)-4-ethyl-2-hydroxy-5-methylhexyl]-α-[(RS)-α-(hydroxycarbamoyl)hydrocinnamamido]imidazole-4-propionamide | C1(CCCCC1)C[C@@H]([C@H](C[C@@H](C(C)C)CC)O)NC([C@H](CC=1N=CNC1)NC(C(CC1=CC=CC=C1)C(NO)=O)=O)=O | C32H49N5O5
